US09255089B2
Tert-butyl 6-(3,5-dimethylisoxazol-4-yl)-2-ethoxy-4-(methoxy(methyl)carbamoyl)-1H-benzo[d]imidazole-1-carboxylate was dissolved in THF (3 mL). To the solution was added a solution of phenyl magnesium chloride (2M in THF, 0.508 mmol, 0.254 mmol) at −78° C. after the addition, the reaction was allowed to warm up to room temperature. The reaction was stirred for 17 hat the same temperature. The reaction mixture was quenched with water (30 mL). The whole was extracted with AcOEt (30 mL×3). Organic layer was washed with brine (30 mL) and dried over Na2SO4. The solvent was removed under a reduced pressure to give the crude product. The crude product was purified by a silica gel column chromatography (hexane:EtOAc, 7:1 to 3:1) to give tert-butyl 4-benzoyl-6-(3,5-dimethylisoxazol-4-yl)-2-ethoxy-1H-benzo[d]imidazole-1-carboxylate.

reactant | Tert-butyl 6-(3,5-dimethylisoxazol-4-yl)-2-ethoxy-4-(methoxy(methyl)carbamoyl)-1H-benzo[d]imidazole-1-carboxylate | CC1=NOC(=C1C=1C=C(C2=C(N(C(=N2)OCC)C(=O)OC(C)(C)C)C1)C(N(C)OC)=O)C | C22H28N4O6
reactant | phenyl magnesium chloride | 0.508 mmol, 2M | C1(=CC=CC=C1)[Mg]Cl
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | tert-butyl 4-benzoyl-6-(3,5-dimethylisoxazol-4-yl)-2-ethoxy-1H-benzo[d]imidazole-1-carboxylate | C(C1=CC=CC=C1)(=O)C1=CC(=CC=2N(C(=NC21)OCC)C(=O)OC(C)(C)C)C=2C(=NOC2C)C | C26H27N3O5
